US04864055
(j) 1-Allyl-6-ethoxy-4-methylhexahydropyrimidin-2-one (AEMHP)
Following a related procedure, [G. Zigeuner, W. Rauter, Monatshefte fur Chemie, 96, 1950 (1965)], allylurea (24.5 g, 0.25 mol), crotonaldehyde (19.67 g, 0.29 mol) and 37% HCl (12 drops) were mixed with 140 g of EtOH at room temperature for 3d, during which all of the crotonaldehyde was consumed. The major product had a retention time near that of allylurea. The dark mixture was neutralized with Na2CO3, filtered and concentrated at reduced pressure. Part of the crude mixture was extracted with cyclohexane, decolorized with charcoal, filtered and concentrated to give a light yellow oil which produced white crystals (mp 72°-76° C.) on standing. A separate sample was submitted to kugelrohr distillation (0.05 torr) to give further products: E at 90° C., F at 145°-155° C. (solid, mp 72°-76° C.) and G at 145°-155° C. (liquid).

reactant | allylurea | 0.25 mol, 24.5 g | C(C=C)NC(=O)N | C4H8N2O
reactant | crotonaldehyde | 0.29 mol, 19.67 g | C(\C=C\C)=O | C4H6O
reactant | EtOH | 140 g | CCO | C2H6O
catalyst | HCl | 12 drops | Cl | ClH
product | 1-Allyl-6-ethoxy-4-methylhexahydropyrimidin-2-one | C(C=C)N1C(NC(CC1OCC)C)=O | C10H18N2O2
